2186-07-14 07:03:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 NASAL SWAB - At [**2186-7-14**] 12:00 AM
   - no events
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-7-14**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.3
   HR: 85 (82 - 91) bpm
   BP: 122/65(77) {106/59(71) - 127/70(84)} mmHg
   RR: 21 (9 - 26) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                    100 mL
   Urine:
   100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                   -100 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ////
   Physical Examination
   General: Alert, oriented, no acute distress
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, mildly distended but tympanitic, bowel sounds present,
   no rebound tenderness or guarding, liver tip palpated 3 cm below costal
   margin
   GU: no foley
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis, or edema
   Labs / Radiology
   397 K/uL
   12.5 g/dL
   4.5 mEq/L
   93 mEq/L
   119 mEq/L
   36.2 %
   13.4 K/uL
        [image002.jpg]
                             [**2186-7-14**]  05:39 AM
   WBC
   13.4
   Hct
   36.2
   Plt
   397
   Other labs: PT / PTT / INR:16.3/24.8/1.4
   .
   Blood cx- pending
   MRSA screen- pending
   Urine legionella- pending
   Assessment and Plan
   65 year old male with a history of hepatocellular carcinoma on
   sorafenib who presents with lethargy and weakness found to have a serum
   sodium of 121 now decreased to 119 with IV hydration.
   Hyponatremia:  Differential diagnosis in this patient includes
   dehydration secondary to poor PO intake, hyponatremia associated with
   cirrhosis and SIADH (although no clear precipitants, no offending
   medications, normal CXR, SIADH not typically associated with
   hepatocellular carcinoma).  Currently he appears euvolemic on exam
   which argues against cirrhosis and volume depletion.  Given his urine
   osms of 388 it is not suprising that he did not show improvement in his
   serum sodium with isotonic saline administration.  Urine sodium of 13
   argues somewhat against SIADH but this number is also dependent on
   sodium intake.  Review of literature does not reveal an association
   between sorafenib and hyponatremia.  At present, we will treat as if he
   has SIADH.  IVF have now been discontinued and he is being fluid
   restricted.  PICC placed this AM and plan to start hypertonic saline at
   20cc/hr.
   - nml T4 and cortisol
   - sodium checks Q4H
   - plan to use hypertonic saline with goal of not increasing sodium more
   than 10-12mEq/day and no more than 1/hr.
   - renal consult
   Hepatocellular carinoma: CT scan from today suggests disease is
   progressing.
   - f/u onc recs
   - follow up results of CT scan
   - holding sorafenib
   - plan for non-con head CT today to eval for mets
   Type II Diabetes:
   - continue home insulin regimen
   FEN: No IVF, fluid restrict 1200 cc, replete electrolytes, diabetic
   diet
   Prophylaxis: Subutaneous heparin
   Access: peripherals
   Code:  Full (discussed with patient)
   Communication: Patient, partner [**Name (NI) **] [**Telephone/Fax (1) 7890**]
   [**Name2 (NI) 1531**]osition: pending clinical improvement
   ICU Care
   Nutrition: Regular; Diabetic/Consistent Carbohydrate, Fluid restriction
   1200 cc
   Glycemic Control:  NPH and humalog sliding scale
   Lines:
   22 Gauge - [**2186-7-13**] 11:25 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: Not indicated
   VAP:  n/a
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now
   ------ Protected Section ------
   Just spoke with neprology fellow and plan to run hypertonic saline
   conservatively at 25cc/hr although his deficit is actually 38cc/hr.
   Confirmed with nephrology attending.
   ------ Protected Section Addendum Entered By:[**Name (NI) 7902**] [**Name8 (MD) **], MD
   on:[**2186-7-14**] 11:06 ------

2186-07-14 09:08:00 Physician Attending Progress Note
Chief Complaint: Hyponatremia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Fluid restriction overnight.
   No new symptoms.
   PICC line placed this AM.
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2186-7-14**] 09:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.3
   HR: 99 (82 - 99) bpm
   BP: 123/68(81) {106/59(71) - 128/70(84)} mmHg
   RR: 18 (9 - 26) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                    200 mL
   Urine:
   200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                   -200 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///21/
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese, Fluid
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): ox3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   12.5 g/dL
   397 K/uL
   109 mg/dL
   0.6 mg/dL
   21 mEq/L
   4.6 mEq/L
   13 mg/dL
   93 mEq/L
   119 mEq/L
   36.2 %
   13.4 K/uL
        [image002.jpg]
                             [**2186-7-14**]  05:39 AM
   WBC
   13.4
   Hct
   36.2
   Plt
   397
   Cr
   0.6
   Glucose
   109
   Other labs: PT / PTT / INR:16.3/24.8/1.4, ALT / AST:201/76, Alk Phos /
   T Bili:145/2.8, Ca++:7.6 mg/dL, Mg++:1.7 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   HYPONATREMIA -- suspect related to SIADH, rather than hypovolemia or
   cirrhosis.  [**Month (only) 11**] be medication related.  Plan hypertonic saline, monitor
   Na.  Monitor electrolytes.
   FLUIDS -- euvolemic.  fluid restrict for SIADH. Monitor I/O.
   HEPATOCELLULAR CA -- Hepatocelluar CA, progressive.  Oncology to
   follow.
   NIDDM -- monitor glucose, maintain <150.
   HCV -- no new developments.  Liver service to follow.
   NUTRITIONAL SUPPORT -- PO
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2186-7-13**] 11:25 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2186-07-15 07:48:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2186-7-14**] 10:30 AM
   - renal: give 800 cc hypertonic saline at 25 cc/hr.  500 cc given so
   far
   - q6hr Na check 118 --> 121 --> 121 --> 125 --> 126
   - given Kayexalate for K 5.9 --> 5.3
   - oncology: please get head CT to check for mass that might cause SIADH
   - head CT: No acute intracranial process. No evidence for metastasis.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2186-7-14**] 11:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-7-15**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.5
C (97.7
   HR: 89 (80 - 103) bpm
   BP: 124/75(85) {106/45(59) - 137/78(91)} mmHg
   RR: 22 (14 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,551 mL
                                                                    179 mL
   PO:
                                                                  1,230 mL
             TF:
   IVF:
                                                                    321 mL
                                                                    179 mL
   Blood products:
   Total out:
                                                                    825 mL
                                                                    200 mL
   Urine:
                                                                    825 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    726 mL
                                                                    -21 mL
   Respiratory support
   SpO2: 98%
   ABG: ///20/
   Physical Examination
   General: Alert, oriented, no acute distress
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, mildly distended but tympanitic, bowel sounds present,
   no rebound tenderness or guarding, liver tip palpated 3 cm below costal
   margin
   GU: no foley
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis, or edema
   Labs / Radiology
   404 K/uL
   11.1 g/dL
   133 mg/dL
   0.6 mg/dL
   20 mEq/L
   4.7 mEq/L
   16 mg/dL
   100 mEq/L
   126 mEq/L
   34.1 %
   9.6 K/uL
        [image002.jpg]
                             [**2186-7-14**]  05:39 AM
                             [**2186-7-15**]  06:18 AM
   WBC
   13.4
   9.6
   Hct
   36.2
   34.1
   Plt
   397
   404
   Cr
   0.6
   0.6
   Glucose
   109
   133
   Other labs: PT / PTT / INR:16.3/24.8/1.4, ALT / AST:201/76, Alk Phos /
   T Bili:145/2.8, Ca++:7.6 mg/dL, Mg++:1.8 mg/dL, PO4:2.3 mg/dL
   BCx
 pending
   MRSA screen - pending
   Assessment and Plan
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
   65 year old male with a history of hepatocellular carcinoma on
   sorafenib who presents with lethargy and weakness found to have a serum
   sodium of 121 now decreased to 119 with IV hydration.
   Hyponatremia:  On hypertonic saline, sodium improved to 126 this AM.
   Differential diagnosis of hyponatremia in this patient includes
   dehydration secondary to poor PO intake, hyponatremia associated with
   cirrhosis and SIADH (although no clear precipitants, no offending
   medications, normal CXR, SIADH not typically associated with
   hepatocellular carcinoma).  Currently he appears euvolemic on exam
   which argues against cirrhosis and volume depletion.  Given his urine
   osms of 388 it is not suprising that he did not show improvement in his
   serum sodium with isotonic saline administration.  Urine sodium of 13
   argues somewhat against SIADH but this number is also dependent on
   sodium intake.  Review of literature does not reveal an association
   between sorafenib and hyponatremia.  At present, we will treat as if he
   has SIADH.  IVF have now been discontinued and he is being fluid
   restricted.  PICC placed this AM and plan to start hypertonic saline at
   20cc/hr.  Head CT showed no evidence of metastasis that may trigger
   SIADH.
   - continue hypertonic saline with goal of not increasing sodium more
   than 10-12mEq/day and no more than 1/hr.
   - check sodium q6hrs, stop hypertonic saline drip once Na is >=128
   - fluid restriction to 1200cc/day
   - f/u renal recs
   Hepatocellular carinoma: CT scan from today suggests disease is
   progressing.  Radiology reviewed Abd CT in regards to whether or not
   there has been increased tumor necrosis, as patient had episode of
   hyponatremia previously in setting of chemoembolization of liver
   tumor.  Radiology did not appreciate any new foci of necrosis.
   - f/u onc recs
   - holding sorafenib
   Type II Diabetes:
   - continue home insulin regimen
   FEN: No IVF, fluid restrict 1200 cc, replete electrolytes, diabetic
   diet
   Prophylaxis: Subutaneous heparin
   Access: peripherals
   Code:  Full (discussed with patient)
   Communication: Patient, partner [**Name (NI) **] [**Telephone/Fax (1) 7890**]
   [**Name2 (NI) 1531**]osition: Call out to floors if Na > 128 on two checks and no
   longer need hypertonic saline
   ICU Care
   Nutrition: Regular; Diabetic/Consistent Carbohydrate, Fluid restriction
   1200 cc
   Glycemic Control:  NPH and humalog sliding scale
   Lines:
   22 Gauge - [**2186-7-13**] 11:25 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: Not indicated
   VAP:  n/a
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Call out to floors if Na > 128 on two checks and no
   longer need hypertonic saline

2186-07-15 10:19:00 Physician Attending Progress Note
Chief Complaint: hyponatremia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PICC LINE - START [**2186-7-14**] 10:30 AM
   hypertonic saline initiated with renal team following
   head ct without acute process/mets
   kayexalate given for hyperK (5.900>5.3)
   History obtained from Patient, ho
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2186-7-15**] 08:00 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-7-15**] 10:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.8
C (98.3
   HR: 88 (80 - 95) bpm
   BP: 112/52(67) {95/45(59) - 137/77(90)} mmHg
   RR: 18 (14 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,551 mL
                                                                    659 mL
   PO:
                                                                  1,230 mL
                                                                    480 mL
   TF:
   IVF:
                                                                    321 mL
                                                                    179 mL
   Blood products:
   Total out:
                                                                    825 mL
                                                                    200 mL
   Urine:
                                                                    825 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    726 mL
                                                                    459 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///20/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Diminished), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Percussion: No(t) Resonant : ), (Breath Sounds:
   Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement: Not
   assessed, No(t) Sedated, Tone: Not assessed
   Labs / Radiology
   11.1 g/dL
   404 K/uL
   133 mg/dL
   0.6 mg/dL
   20 mEq/L
   4.7 mEq/L
   16 mg/dL
   100 mEq/L
   126 mEq/L
   34.1 %
   9.6 K/uL
        [image002.jpg]
                             [**2186-7-14**]  05:39 AM
                             [**2186-7-15**]  06:18 AM
   WBC
   13.4
   9.6
   Hct
   36.2
   34.1
   Plt
   397
   404
   Cr
   0.6
   0.6
   Glucose
   109
   133
   Other labs: PT / PTT / INR:16.3/24.8/1.4, ALT / AST:201/76, Alk Phos /
   T Bili:145/2.8, Ca++:7.6 mg/dL, Mg++:1.8 mg/dL, PO4:2.3 mg/dL
   Imaging: no cxr today
   Microbiology: bl pending
   Assessment and Plan
   65 yo M with HCC s/p failed chemoembolization on ctx who presents with
   hyponatremia
   Issues include:
   HYPONATREMIA
   Hyperkalemia (resolved)
   Hepatocellular ca
   HCV
   NIDDM
   Etiology of hyponatremia is likely multifactorial.  Suspect related to
   SIADH, though his urine na and osm are not fully consistent with this.
   ? component of hypovolemia initially or relative
   hypovolemia/vasodilation from cirrhosis.  ? medication related.
   Unclear whether sorafenib might contribute. ? paraneoplastic syndrome
   in setting of tumor necorsis from HCC.
   Currently appears euvolemic. Renal consult appreciated.  We cont
   hypertonic saline pending further improvement in serum na to high 20
   range, monitoring serial labs Na. Continue fluid restriction to 1200
   cc/day. Monitor electrolytes.
   Remainder of plan as outlined in resident note.
   ICU Care
   Nutrition:  po diabetic diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   22 Gauge - [**2186-7-13**] 11:25 PM
   PICC Line - [**2186-7-14**] 10:30 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
can transition to floor if na remains stable post
   hypertonic saline
   Total time spent: 35 minutes
   Patient is critically ill

2186-07-16 07:25:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -Renal: When Na+ 130, start 1L fluid restriction and high protein diet
   -Onc: no recs in chart
   -SIADH less likely b/c UNa low, and UOsm not high (not >400). HCC not
   usual culprit for SIADH. Looked for mass on CT head.
   -Na 129 (goal 130) at [**2121**]. Hypertonic saline stopped at 2130. Started
   fluid restriction 1L per renal recs. Changed to high salt, high protein
   diet.
   -Na 131 this AM. Call out.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2186-7-16**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-7-16**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.8
C (98.2
   HR: 90 (83 - 100) bpm
   BP: 110/67(78) {95/46(62) - 178/84(98)} mmHg
   RR: 23 (15 - 28) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  1,573 mL
                  PO:
                                                                  1,080 mL
                  TF:
   IVF:
                                                                    493 mL
   Blood products:
   Total out:
                                                                    550 mL
                                                                    150 mL
   Urine:
                                                                    550 mL
                                                                    150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,023 mL
                                                                   -150 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///22/
   Physical Examination
   General: Alert, oriented, no acute distress
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, mildly distended but tympanitic, bowel sounds present,
   no rebound tenderness or guarding, liver tip palpated 3 cm below costal
   margin
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis, or edema
   Labs / Radiology
   375 K/uL
   10.9 g/dL
   107 mg/dL
   0.5 mg/dL
   22 mEq/L
   4.5 mEq/L
   17 mg/dL
   101 mEq/L
   131 mEq/L
   32.8 %
   9.3 K/uL
        [image002.jpg]
                             [**2186-7-14**]  05:39 AM
                             [**2186-7-15**]  06:18 AM
                             [**2186-7-15**]  03:18 PM
                             [**2186-7-16**]  04:14 AM
   WBC
   13.4
   9.6
   9.3
   Hct
   36.2
   34.1
   32.8
   Plt
   397
   404
   375
   Cr
   0.6
   0.6
   0.4
   0.5
   Glucose
   109
   133
   248
   107
   Other labs: PT / PTT / INR:16.3/24.8/1.4, ALT / AST:201/76, Alk Phos /
   T Bili:145/2.8, Ca++:7.5 mg/dL, Mg++:1.7 mg/dL, PO4:1.8 mg/dL
   BCx
 pending
   MRSA screen - pending
   Urine legionella- negative
   .
   CT Head (Final): No acute intracranial abnormality. No evidence for
   metastasis (as origin for SIADH)
   Assessment and Plan
   65 year old male with a history of hepatocellular carcinoma on
   sorafenib who presents with lethargy and weakness found to have a serum
   sodium of 121 now decreased to 119 with IV hydration.
   Hyponatremia:  Sodium up to 131 this AM and hypertonic saline turned
   off last night.  Differential diagnosis of hyponatremia in this patient
   includes dehydration secondary to poor PO intake, hyponatremia
   associated with cirrhosis and SIADH (although no clear precipitants, no
   offending medications, normal CXR, SIADH not typically associated with
   hepatocellular carcinoma).  Currently he appears euvolemic on exam
   which argues against cirrhosis and volume depletion.  Given his urine
   osms of 388 it is not suprising that he did not show improvement in his
   serum sodium with isotonic saline administration.  Urine sodium of 13
   argues somewhat against SIADH but this number is also dependent on
   sodium intake.  Review of literature does not reveal an association
   between sorafenib and hyponatremia.  At present, we will treat as if he
   has SIADH.  IVF have now been discontinued and he is being fluid
   restricted.  PICC placed this AM and plan to start hypertonic saline at
   20cc/hr.  Head CT showed no evidence of metastasis that may trigger
   SIADH.
   - stopped hypertonic saline drip once Na was >=128
   - fluid restriction to 1000cc/day
   - f/u renal recs
   Hepatocellular carinoma: CT scan on admission suggests disease is
   progressing.  Radiology reviewed Abd CT in regards to whether or not
   there has been increased tumor necrosis, as patient had episode of
   hyponatremia previously in setting of chemoembolization of liver
   tumor.  Radiology did not appreciate any new foci of necrosis.
   - f/u onc recs
   - holding sorafenib
   Type II Diabetes:
   - continue home insulin regimen
   FEN: No IVF, fluid restrict 1000 cc, replete electrolytes, high salt
   and protein diet
   Prophylaxis: Subutaneous heparin
   Access: peripherals
   Code:  Full (discussed with patient)
   Communication: Patient, partner [**Name (NI) **] [**Telephone/Fax (1) 7890**]
   [**Name2 (NI) 1531**]osition: Call out to OMED as Na>130
   ICU Care
   Nutrition: Regular; High salt, high protein Fluid restriction: 1000ml
   Glycemic Control:  NPH and humalog sliding scale
   Lines:
   PICC Line - [**2186-7-14**] 10:30 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Call out to OMED